US07745438B2
N-{(1S,2S)-1-(3,5-Difluorobenzyl)-2-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-2-hydroxyethyl}-acetamide hydrochloride
Dissolve (1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-propan-1-ol (70 mg, 0.188 mmol) in dry dichloromnethane (1.8 mL) under nitrogen. Add dropwise acetic anhydride (22 μL, 0.233 mmol) and stir for 1 hour. Add 1 M hydrogen chloride in diethyl ether (1 mL) and dilute with benzene. Concentrate and purify (HPLC, eluting with 30% to 70% acetonitrile with 0.1% hydrochloric acid in water) to give the title compound as a white solid (38 mg, 45%)

reactant | (1S,2S)-2-amino-3-(3,5-difluorophenyl)-1-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-propan-1-ol | 0.188 mmol, 70 mg | N[C@H]([C@H](O)[C@@H]1N[C@H]([C@@H](OC1)OCC(C)(C)C)C)CC1=CC(=CC(=C1)F)F | C19H30F2N2O3
reactant | acetic anhydride | 0.233 mmol, 22 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | hydrogen chloride | 1 M | Cl | ClH
solvent | diethyl ether | 1 mL | C(C)OCC | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-{(1S,2S)-1-(3,5-Difluorobenzyl)-2-[(3R,5S,6R)-6-(2,2-dimethylpropoxy)-5-methylmorpholin-3-yl]-2-hydroxyethyl}-acetamide hydrochloride | 38 mg, 45% | Cl.FC=1C=C(C[C@@H]([C@H](O)[C@@H]2N[C@H]([C@@H](OC2)OCC(C)(C)C)C)NC(C)=O)C=C(C1)F | InChI=1S/C21H32F2N2O4.ClH/c1-12-20(29-11-21(3,4)5)28-10-18(24-12)19(27)17(25-13(2)26)8-14-6-15(22)9-16(23)7-14;/h6-7,9,12,17-20,24,27H,8,10-11H2,1-5H3,(H,25,26);1H/t12-,17-,18+,19-,20-;/m0./s1
